US05665718
9 g (19.9 mmol) of (S)-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 20 ml of ethanol and 65 ml of methylamine (33%) in ethanol were stirred at 70° for 2 hours. The solution was concentrated and the residue was triturated with 70 ml of methylene chloride. The suspension obtained was filtered. After drying the filter residue there was obtained (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was used without further crystallization as the starting material for the Example described hereinafter.

reactant | (S)-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 19.9 mmol, 9 g | C1(C=2C(C(N1CC1=NOC(=N1)C=1N=CN3C1[C@H]1N(C(C4=C3C=CC=C4)=O)CC1)=O)=CC=CC2)=O | C24H16N6O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylamine | 65 ml | CN | CH5N
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H14N6O2
